US09029550B2
Preparation of N-(1-Acetylpiperidin-4-yl)-N′-(adamant-1-yl) urea
A reactor was charged with 100 mole-equivalents of N-acetyl piperid-4-yl amide, 0.87 mole-equivalents of 1-adamantyl amine, and 49.7 mole-equivalent of acetonitrile, and the resulting mixture was heated to 75° C. internal under a nitrogen atmosphere. (Diacetoxyiodo)benzene was added, the reaction mixture was cooled to 25° C. internal, and approximately 24 mole-equivalents of solvent was distilled out under vacuum while maintaining internal temperature below 40° C. The reaction mixture was cooled with agitation to 0-5° C. internal and stirred for an additional 2 hours. The technical product was collected by filtration and washed with acetonitrile. The crude product was dried to constant weight in a vacuum oven under a nitrogen bleed maintaining an internal temperature of ≦50° C. The dried, crude product was slurried with water maintaining an internal temperature of 20±5° C. internal for 4 hours and then collected by filtration. The filter cake was washed with heptane under a nitrogen atmosphere then dried to constant weight in a vacuum oven under a nitrogen bleed maintaining an internal temperature of ≦70° C. to afford product as a white solid in 72% yield based on 1-adamantyl amine. 1H NMR(DMSO-d6) δ: 5.65-5.70 (bd, 1H), 5.41 (s, 1H), 4.02-4.10 (m, 1H), 3.61-5.70, (m, 1H), 3.46-3.58 (m, 1H), 3.04-3.23 (m, 1H), 2.70-2.78 (m, 1H), 1.98 (s, 3H), 1.84 (s, 6H), 1.64-1.82 (m, 2H), 1.59 (s, 6H), 1.13-1.25 (m, 1H), 1.00-1.12 (m, 1H); MS: 320 [M+H]+; m.p. 202-204° C.

reactant | N-acetyl piperid-4-yl amide | C(C)(=O)[N-]C1CCNCC1
reactant | 1-adamantyl amine | C12(CC3CC(CC(C1)C3)C2)N | C10H17N
reactant | (Diacetoxyiodo)benzene | C(C)(=O)OI(OC(C)=O)C1=CC=CC=C1 | C10H11IO4
solvent | acetonitrile | C(C)#N | C2H3N
product | N-(1-Acetylpiperidin-4-yl)-N′-(adamant-1-yl) urea | 72% yield | C(C)(=O)N1CCC(CC1)NC(=O)NC12CC3CC(CC(C1)C3)C2 | C18H29N3O2
